US08981111B2
To a solution of 1-methyl-1H-1,2,4-triazole (5.0 g, 60.17 mmol, 1 eq.) in 250 ml of MeCN cooled to −5° C. were added Benzoyl chloride (8.45 g, 60.17 mmol, 1 eq.) and TEA (6.39 g, 8.8 ml, 63.18 mmol, 1.05 eq.) dropwise. Upon complete addition the temperature was raised to r.t. and the reaction stirred overnight. The white solid was removed by filtration and the solvent evaporated. The yellow residue was triturated in EtOAc and the white solid removed by filtration. The solvent was evaporated and the resulting brown solid was recrystalised in EtOAc/IPE to give (1-methyl-1H-1,2,4-triazol-5-yl)(phenyl)methanone (6.5 g, 58% yield) as a white solid.

reactant | 1-methyl-1H-1,2,4-triazole | 60.17 mmol, 5.0 g, 1 eq. | CN1N=CN=C1 | C3H5N3
reactant | Benzoyl chloride | 60.17 mmol, 8.45 g, 1 eq. | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | MeCN | 250 ml | CC#N | C2H3N
product | (1-methyl-1H-1,2,4-triazol-5-yl)(phenyl)methanone | 6.5 g, 58% yield | CN1N=CN=C1C(=O)C1=CC=CC=C1 | C10H9N3O
